US05182279
A solution of 4-chloro-2-nitrobenzonitrile (2.19 g, 12 mmol) (EP 110,559; cf. Chem. Abstr., 101 130431 f (1984)) in 40 ml of DMF was stirred under cooling (ice bath), and a solution of sodium sulfide nonahydrate (3.47 g, 14.4 mmol) in 8 ml of water was added dropwise. When the addition was complete (0.5 h) the mixture was stirred for 15 min. and bromonitromethane (2.02 g, 14.4 mmol) was added dropwise. The ice bath was removed and stirring was continued for 16 h. The reaction mixture was poured into icewater and the yellow precipitate was filtered off and dried to afford 1.05 g (38%) of 3-amino-6-chloro-2-nitrobenzo[b]thiophene M.p. 243°-245° C. 1H-NMR (DMSO-d67): δ 7.55 (dd, 1H), 8.11 (d, 1H), 8.36 (d, 1H), 8.97 (br. s, 2H).

reactant | 4-chloro-2-nitrobenzonitrile | 12 mmol, 2.19 g | ClC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | sodium sulfide nonahydrate | 14.4 mmol, 3.47 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | bromonitromethane | 14.4 mmol, 2.02 g | BrC[N+](=O)[O-] | CH2BrNO2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 8 ml | O | H2O
product | 3-amino-6-chloro-2-nitrobenzo[b]thiophene | 1.05 g, 38% | NC=1C2=C(SC1[N+](=O)[O-])C=C(C=C2)Cl | C8H5ClN2O2S
